US07217740B2
1-(phenylethynyl)-4-(phenylsulfonyl)benzene
A mixture of 1-ethynyl-4-(phenylsulfonyl)benzene (100 mg, 0.4 mmol), iodobenzene (0.05 mL, 0.44 mmol) and triethylamine (1 mL) in toluene (1 mL) was degassed. Copper(I) iodide (3 mg, 0.004 mmol) and dichlorobis(triphenylphosphine)-palladium(II) (3 mg, 0.004 mmol) were added and the reaction stirred at room temperature overnight. The mixture was poured into water and extracted with ethyl acetate. The organic layer was dried and concentrated in vacuo. The residue was purified by preparative HPLC to give the title compound (35 mg, 28%). δH (500 MHz, d6 DMSO): 7.97 (4H, dd, J=2.6, 8.4 Hz), 7.77–7.69 (3H, m), 7.64–7.56 (4H, m), 7.43–7.41 (3H, m).

reactant | 1-ethynyl-4-(phenylsulfonyl)benzene | 0.4 mmol, 100 mg | C(#C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C14H10O2S
reactant | iodobenzene | 0.44 mmol, 0.05 mL | IC1=CC=CC=C1 | C6H5I
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Copper(I) iodide | 0.004 mmol, 3 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.004 mmol, 3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(phenylethynyl)-4-(phenylsulfonyl)benzene | 35 mg, 28% | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C20H14O2S
